data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_325932_1,[C:1]1([H:13])([H:14])[C:7]([C:6]([N:5]([H:11])[H:12])([H:15])[H:18])([H:16])[N:8]1[C:3](=[C:2]([H:17])[H:19])[N:4]([H:9])[H:10]>>[C:1](/[C:7](=[C:6](\[N:5]([H:11])[H:12])[H:15])[H:16])(/[N:8]=[C:3](/[C:2]([H:17])([H:18])[H:19])[N:4]([H:9])[H:10])([H:13])[H:14],39.13905750002286
MR_628183_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[C:5]([H:17])[H:18])([O:6][O:7][H:9])[O:8][H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](\[C:3]([H:14])([H:15])[H:16])[C:5]([O:6][O:7][H:9])([H:17])[H:18])[O:8][H:10],47.01857499999676
MR_514984_1,[C@@:1](/[C:3](=[N:6]\[C:2]([H:13])([H:14])[H:15])[H:11])(/[C:4](=[N:7]\[H:10])[H:12])([O:5][H:8])[H:9]>>[C:1](=[C:3](\[N:6]([C:2]([H:13])([H:14])[H:15])/[C:4](=[N:7]\[H:10])[H:12])[H:11])(\[O:5][H:8])[H:9],70.96522999996097
MR_116102_1,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:3]/[N:5]([H:8])[H:11])[O:7][H:10])([N:6]([H:12])[H:13])[H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([N:3]([N:5]([H:10])[H:11])[H:8])=[O:7])([N:6]([H:12])[H:13])[H:9],48.30871500002104
MR_264515_1,[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([N:7]([C:3]([O:6][H:10])([H:13])[H:14])[O:8][H:9])[H:12])(=[O:5])[H:11]>>[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([N:7]=[O:8])[H:12])([C:3]([O:6][H:10])([H:13])[H:14])([O:5][H:9])[H:11],64.14053999999908
MR_116404_1,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[H:8])(/[N:7]=[C:5](/[C:3]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])([H:11])[H:12]>>[C:1](=[N:7][C:5]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[H:8])[N:6]([H:9])[H:10])([H:11])[H:12],69.00178249999584
MR_226585_1,[C:1]([C:2]([C:4]([O:7][H:10])=[O:9])([N:5]([H:14])[H:15])[H:13])([C:3]([N:6]([H:16])[H:17])([H:18])[H:19])([O:8][H:11])[H:12]>>[C:1]([C:2]([C:4]([C:3]([N:6]([H:16])[H:17])([H:18])[H:19])([O:7][H:10])[O:9][H:11])([N:5]([H:14])[H:15])[H:13])(=[O:8])[H:12],69.00052749999901
MR_6023_1,[C:1]([C:2]([N:3]([H:9])[H:10])=[O:7])(/[N:6]=[C:4](/[O:5][H:8])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2](=[O:7])[N:6]1[C:4]([N:3]([H:9])[H:10])([O:5][H:8])[H:11],67.15693250001664
MR_628268_1,[C:1]1([O:9]/[C:6]([C:3]([H:16])([H:17])[H:18])=[C:8](/[C:4]([H:19])([H:20])[H:21])[H:15])([H:11])[C:2]([N:7]([H:13])[H:14])([H:12])[N:5]1[H:10]>>[C:1]1([N:5](/[C:2](=[N:7]\[H:13])[H:12])[H:10])([H:11])[C:6]([C:3]([H:16])([H:17])[H:18])([C:8]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])[O:9]1,59.78317999997856
MR_283885_0,[C:1]1([H:10])([H:11])/[C:3](=[N:7]/[H:8])[O:6][C:5]([H:9])=[C:4]1[C:2]([H:12])([H:13])[H:14]>>[C:1]1([H:10])([H:11])/[C:3](=[N:7]/[H:8])[C:4]1([C:2]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:9],49.14768249997167
MR_440461_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[C:6](=[O:9])[N:10]([C:7]([C:5]([H:21])([H:22])[H:23])=[C:8]([H:24])[H:25])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])/[C:6]([O:9][C:7]([C:5]([H:21])([H:22])[H:23])=[C:8]([H:24])[H:25])=[N:10]\[H:11],62.86671500000495
MR_57674_1,[C:1]1([H:10])([H:11])[C:5]([C:4](=[C:2]([H:15])[H:16])[O:7][H:9])([H:12])[N:8]1[C:6]([C:3]([H:17])([H:18])[H:19])([H:13])[H:14]>>[C:1](/[C:5](=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:7][H:9])[H:12])(/[N:8]=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])([H:10])[H:11],32.660747500006835
MR_200153_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3](/[C:5](=[N:7]/[H:11])[H:12])=[C:6]([H:16])[H:17])([N:4]([H:9])[H:10])[H:8]>>[C:1](\[C:2]([H:13])([H:14])[H:15])([C:3]([C:5]([N:7]([H:9])[H:11])([H:8])[H:12])=[C:6]([H:16])[H:17])=[N:4]\[H:10],64.95189749998374
MR_391736_1,[C:1]([N:4]([H:9])[H:10])(/[C:6](=[C:5](\[N:3]([C:2]([H:15])([H:16])[H:17])[O:7][H:8])[H:11])[H:14])([H:12])[H:13]>>[C:1]([N:4]([H:9])[H:10])([C:6](/[C:5](=[N:3]/[C:2]([H:15])([H:16])[H:17])[H:11])([O:7][H:8])[H:14])([H:12])[H:13],43.29749999997489
MR_424217_1,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:5](\[C:3]([H:16])([H:17])[H:18])[C:4]([O:6][H:10])([O:7][H:9])[O:8][H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:5]([C:3]([H:16])([H:17])[H:18])=[C:4]([O:6][H:10])[O:7][H:9])([O:8][H:11])[H:12],56.23152999995696
MR_154620_0,[C:1]([C:2]([H:12])([H:13])[H:14])([O:6][C:3]([C:4](=[O:8])[H:11])=[C:5]([H:15])[H:16])([O:7][H:9])[H:10]>>[C:1]([O:6][C:3]([C:4]([C:2]([H:12])([H:13])[H:14])([O:8][H:9])[H:11])=[C:5]([H:15])[H:16])(=[O:7])[H:10],65.50849000000525
MR_569936_0,[C:1]([N:3]([H:11])[H:12])(/[C:5](=[C:2](\[N:4]([H:13])[H:14])[O:7][H:9])[H:15])([N:8]=[C:6]([H:16])[H:17])[H:10]>>[C:1](\[N:3]([H:11])[H:12])(=[C:5](\[C:2]([N:4]([H:13])[H:14])([O:7][H:9])[N:8]=[C:6]([H:16])[H:17])[H:15])[H:10],54.679095000024205
MR_285000_0,[C:1]([N:2]([C:3]([O:6][H:11])([O:7][H:12])[O:8][H:10])[H:13])([O:4][H:9])=[O:5]>>[C:1]([N:2]([C:3]([O:7][H:12])=[O:8])[H:13])([O:4][H:9])([O:5][H:10])[O:6][H:11],49.667879999978055
